US04614723
15.2 ml of benzaldehyde and 7.51 g of 4-carboxybenzaldehyde are dissolved in 746 ml of boiling propionic acid, treated dropwise with 13.9 ml of pyrrole, the mixture obtained is subsequently heated under reflux for about 30 minutes and then left to cool to room temperature. The porphine derivative is precipitated by the addition of 0.5 l of water. The filtered-off crude product is pre-purified by two-fold column chromatography on 1.2 kg of silica gel, in each case the elution being carried out with the following solvents in sequence: chloroform/cyclohexane (1:1), chloroform/ethyl acetate (3:2) and (1:1), ethyl acetate and ethyl acetate which contains 2% methanol. For the further purification, the product is suspended in a small amount of methanol and filtered off. This procedure is repeated until the filtrate is only faintly coloured. The thus-obtained product is then chromatographed on a silica gel column using chloroform, chloroform/ethyl acetate (1:1) and ethyl acetate as the elution agent. There are obtained 1.7 g of 4-(10,15,20-triphenyl-21H,23H-porphin- 5-yl)benzoic acid as violet crystals.

reactant | benzaldehyde | 15.2 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-carboxybenzaldehyde | 7.51 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | pyrrole | 13.9 ml | N1C=CC=C1 | C4H5N
solvent | propionic acid | 746 ml | C(CC)(=O)O | C3H6O2
product | 4-(10,15,20-triphenyl-21H,23H-porphin- 5-yl)benzoic acid | 1.7 g | C1(=CC=CC=C1)C=1C=2C=CC(=C(C3=CC=C(N3)C(=C3C=CC(C(=C4C=CC1N4)C4=CC=CC=C4)=N3)C3=CC=CC=C3)C3=CC=C(C(=O)O)C=C3)N2 | C45H30N4O2
